US03965151
To a solution of 3.1 g. (0.0118 M) of stannic chloride in 35 ml. of dry ethylene dichloride under nitrogen was added 1.5 g. (0.00438 M) of 7-chloro-1,3-dihydro-2-oxo-5-phenyl-2H-1,4-benzodiazepine-3-carboxylic acid ethyl ester. The reaction was stirred in an ice bath, when a solution of 1.0 g. (0.0233 M) of ethylene oxide in 5 ml. of ethylene dichloride was added. The mixture was stirred at room temperature for 3 hr. and then made basic with mixture of ammonium hydroxide and ice. The mixture was filtered, and the filtrate was dried with anhydrous sodium sulfate and evaporated to dryness. The residue was crystallized from ether. Recrystallization from a mixture of dichloromethane and petroleum ether gave 10-chloro-11b-phenyl-2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one-5-carboxylic acid ethyl ester as white rods, m.p. 205°-207°.

reactant | 7-chloro-1,3-dihydro-2-oxo-5-phenyl-2H-1,4-benzodiazepine-3-carboxylic acid ethyl ester | 0.00438 M | C(C)OC(=O)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C18H15ClN2O3
reactant | ethylene oxide | 0.0233 M | C1CO1 | C2H4O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 10-chloro-11b-phenyl-2,3,5,11b-tetrahydrooxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1C(NC2=C(C3(N1CCO3)C3=CC=CC=C3)C=C(C=C2)Cl)=O | C20H19ClN2O4
